US08835432B2
2-(1-(3-Chloro-6-fluoroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione
To a mixture of 2-(1-bromoethyl)-3-chloro-6-fluoroquinoxaline (57.17 g, 197.5 mmol) containing 3-chloro-2-(1-chloroethyl)-6-fluoroquinoxaline (48.39 g, 197.5 mmol) in N,N-dimethylformamide (700.0 ml, 197.5 mmol) was added potassium phthalimide (91.43 g, 493.6 mmol) at rt and the mixture was stirred at rt for 1 h. After 1 h, to the mixture was added water (2 L). The mixture was extracted with DCM (500 mL×3). The combined organic layers were washed with brine (1 L×1), dried over MgSO4, filtered, and concentrated under reduced pressure to give a red liquid. The red liquid was filtered though a plug of silica (5.5 inch diameter×5 inch height), and eluented with 20% of EtOAc in hexane, then 30% of EtOAc in hexane, and then 100% of EtOAc as eluent to give two fractions. Second fraction, desired product 2-(1-(3-chloro-6-fluoroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione (53.367 g, 75.97% yield) as a pink solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.25 (dd, J=9.4, 5.9 Hz, 1H), 7.81-7.95 (m, 6H), 5.86 (q, J=6.8 Hz, 1H), 1.86 (d, J=7.0 Hz, 3H). Mass Spectrum (ESI) m/e=356.0 (M+1).

reactant | 2-(1-bromoethyl)-3-chloro-6-fluoroquinoxaline | 197.5 mmol, 57.17 g | BrC(C)C1=NC2=CC=C(C=C2N=C1Cl)F | C10H7BrClFN2
reactant | 3-chloro-2-(1-chloroethyl)-6-fluoroquinoxaline | 197.5 mmol, 48.39 g | ClC=1C(=NC2=CC=C(C=C2N1)F)C(C)Cl | C10H7Cl2FN2
reactant | N,N-dimethylformamide | 197.5 mmol, 700.0 ml | CN(C=O)C | C3H7NO
reactant | potassium phthalimide | 493.6 mmol, 91.43 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | water | 2 L | O | H2O
product | 2-(1-(3-chloro-6-fluoroquinoxalin-2-yl)ethyl)isoindoline-1,3-dione | 53.367 g, 75.97% yield | ClC=1C(=NC2=CC=C(C=C2N1)F)C(C)N1C(C2=CC=CC=C2C1=O)=O | C18H11ClFN3O2
